US05753679
1.21 g (0.0063 mol) of 1-benzyl-4-hydroxypiperidine and 0.874 ml (0.0063 mol) of triethylamine were dissolved in 80 ml of toluene and treated with 1.6 g (0.006 mol) of 3-iodo-benzoyl chloride. The mixture was boiled at reflux for 6 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:2). 1.9 g (76%) of 1-benzyl-piperidin-4-yl 3-iodo-benzoate were obtained as yellowish crystals; m.p. 101°-103°.

reactant | 1-benzyl-4-hydroxypiperidine | 0.0063 mol, 1.21 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.0063 mol, 0.874 ml | C(C)N(CC)CC | C6H15N
reactant | 3-iodo-benzoyl chloride | 0.006 mol, 1.6 g | IC=1C=C(C(=O)Cl)C=CC1 | C7H4ClIO
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 3-iodo-benzoate | 1.9 g, 76% | IC=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C19H20INO2
